US05514643
Synthesis of 2-ethylamino-4-trifluoromethyl-thiazole-5-carboxylic acid (cyano-thiophen-2-yl-methyl)-amide (7)
1.0g of 2-bromo-4-trifluoromethyl-thiazole-5-carboxylic acid (cyano-thiophen-2-yl-methyl)-amide, 0.36ml of triethylamine and 0.50ml of ethylamine were added to 10ml of tetrahydrofuran and the reaction mixture was stirred under reflux for 4 hours. Water and ethylacetate were added thereto to separate the layers. The separated organic layer was dried over anhydrous sodium sulfate and evaporated. The residue was recrystallized from the mixed solvent of n-hexane and ethylacetate to obtain 0.67g (Yield 73%) of the title compound.

reactant | 2-bromo-4-trifluoromethyl-thiazole-5-carboxylic acid (cyano-thiophen-2-yl-methyl)-amide | 1.0g | C(#N)C(C=1SC=CC1)NC(=O)C1=C(N=C(S1)Br)C(F)(F)F | C11H5BrF3N3OS2
reactant | triethylamine | 0.36ml | C(C)N(CC)CC | C6H15N
reactant | ethylamine | 0.50ml | C(C)N | C2H7N
reactant | tetrahydrofuran | 10ml | O1CCCC1 | C4H8O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | Water | O | H2O
product | 2-ethylamino-4-trifluoromethyl-thiazole-5-carboxylic acid (cyano-thiophen-2-yl-methyl)-amide | 0.67g, Yield 73% | C(#N)C(C=1SC=CC1)NC(=O)C1=C(N=C(S1)NCC)C(F)(F)F | C13H11F3N4OS2
